US06727264B1
N-(3-{1-[5-(4-CHLOROPHENYL)-5-(4-METHOXYPHENOXY)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 4-methoxyphenol and N-(3-{1-[5-(4-chlorophenyl)-5-hydroxypentyl]-4-piperidinyl}phenyl)-2-methylpropanamide: 1H NMR (400 MHz, CDCl3), HCl salt δ 8.13 (s, br, 1H), 7.72-6.70 (m, 12H), 5.08-4.97 (m, 1H), 3.72 (s, 3H), 3.66-3.50 (m, br, 2H), 3.03-2.82 (br, 2H), 2.80-2.54 (m, br, 4H), 2.53-2.17 (m, br, 2H), 2.08-1.78 (m, br, 6H), 1.65-1.38 (m, br, 2H), 1.25 (d, 6H, J=6.8 Hz). Anal. Calc. for C33H42Cl2N2O3.0.54CH2Cl2: C, 63.80; H, 6.88; N, 4.44. Found: C, 63.84; H, 7.18; N, 4.00. ESMS m/e: 549.1 (M+H)+.

reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | N-(3-{1-[5-(4-chlorophenyl)-5-hydroxypentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | ClC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C26H35ClN2O2
reactant | HCl | Cl | ClH
product | N-(3-{1-[5-(4-CHLOROPHENYL)-5-(4-METHOXYPHENOXY)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=CC=C(C=C1)OC | C33H41ClN2O3
